US06927228B2
(b) 5-(3′-Hydroxybiphenyl-4-ylmethylene)-thiazolidine-2,4-dione
In a manner similar to that of Example 1(f), starting with 15 g (75.7 mmol) of 3′-hydroxybiphenyl-4-carbaldehyde and 8.85 g (75.7 mmol) of 2,4-thiazolidine dione, 22.5 g (100%) of the expected product are obtained.

reactant | 3′-hydroxybiphenyl-4-carbaldehyde | 75.7 mmol, 15 g | OC=1C=C(C=CC1)C1=CC=C(C=C1)C=O | C13H10O2
reactant | 2,4-thiazolidine dione | 75.7 mmol, 8.85 g | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-(3′-Hydroxybiphenyl-4-ylmethylene)-thiazolidine-2,4-dione | 22.5 g, 100% | OC=1C=C(C=CC1)C1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C16H11NO3S
